US05589478
To a solution of 4-tert-butyl-N-[6-{2-(5-(1-hydroxyethyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide (150 mg) in methylene chloride (3 ml) is added thionyl chloride (90 mg), and the mixture is reacted at room temperature for 0.5 hour. The reaction solution is concentrated to dryness under reduced pressure, and to the residue are added 10% palladium-carbon (30 mg), triethylamine (76 mg) and ethanol (3 ml), and the mixture is stirred at room temperature for two hours under hydrogen atmosphere (1 atm). The catalyst is removed by filtration, and the filtrate is concentrated to dryness under reduced pressure. The residue is extracted with ethyl acetate, and the ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/ethyl acetate=10:1), and recrystallized from ethyl acetate/n-hexane to give 4-tert-butyl-N-[6-{2-(5-ethylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide (137 mg) as crystals.

reactant | 4-tert-butyl-N-[6-{2-(5-(1-hydroxyethyl)pyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide | 150 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=C(C=N1)C(C)O | C29H33N5O7S
reactant | thionyl chloride | 90 mg | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-butyl-N-[6-{2-(5-ethylpyrimidin-2-yloxy)ethoxy}-5-(3-methoxyphenoxy)pyrimidin-4-yl]benzenesulfonamide | 137 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)OCCOC1=NC=C(C=N1)CC | C29H33N5O6S
